US20010018442A1
5 g (0.028 mol) of benzofuran-2,3-dione 3-(O-methyl-oxime) (WO-A 9524396) in 100 ml of tetrahydrofuran are stirred with 20 ml of 25% strength aqueous ammonia solution at 20° C. for 2 hours. The solvent is then distilled off under reduced pressure, the residue is poured onto water and extracted with ethyl acetate, the organic is dried over sodium sulphate and the solvent is distilled off under reduced pressure. The residue is recrystallized from ethanol, affording 2 g (36.4% of theory) of 2-(2-hydroxy-phenyl)-2-methoxyimino-acetamide.

reactant | benzofuran-2,3-dione 3-(O-methyl-oxime) | 0.028 mol, 5 g | CON=C1C(OC2=C1C=CC=C2)=O | C9H7NO3
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-hydroxy-phenyl)-2-methoxyimino-acetamide | 2 g, 36.4% | OC1=C(C=CC=C1)C(C(=O)N)=NOC | C9H10N2O3
